US06025370
In the same manner as in Example 1, 0.23 g of ethyl 7-bromo-1-cyclopropyl-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate was reacted with 0.63 g of 6-fluoro-2-(p-toluenesulfonyl)-5-tributylstannyliso-indoline to obtain 0.25 g of ethyl 1-cyclopropyl-7-[6-fluoro-2-(p-toluenesulfonyl)isoindolin-5-yl]-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate.

reactant | ethyl 7-bromo-1-cyclopropyl-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.23 g | BrC1=CC=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)OCC)=O | C16H16BrNO4
reactant | 6-fluoro-2-(p-toluenesulfonyl)-5-tributylstannyliso-indoline | 0.63 g | FC1=C(C=C2CN(CC2=C1)S(=O)(=O)C1=CC=C(C=C1)C)[Sn](CCCC)(CCCC)CCCC
product | ethyl 1-cyclopropyl-7-[6-fluoro-2-(p-toluenesulfonyl)isoindolin-5-yl]-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.25 g | C1(CC1)N1C=C(C(C2=CC=C(C(=C12)OC)C=1C=C2CN(CC2=CC1F)S(=O)(=O)C1=CC=C(C=C1)C)=O)C(=O)OCC | C31H29FN2O6S
